US05753665
A solution of 4-methoxyphenol (1,24 g) in dry 1,2-dimethoxyethane was added slowly to a stirred suspension of sodium hydride (0.48 g) in dry 1,2-dimethoxyethane (35 ml). The mixture was stirred for 30 minutes, then a solution of 7-(1-bromoethyl)-1,2,4-triazolo[1,5-a]pyrimidine (2.27 g) in dry 1,2-dimethoxyethane (85 ml) was added dropwise. The reaction mixture was stirred overnight at room temperature, filtered and the solvent was evaporated from the filtrate under reduced pressure. The residue was purified by flash chromatography using as eluent a mixture of ethyl acetate and petroleum ether, followed by recrystallisation from a mixture of ethyl acetate and hexane, to give 7-[1-(4-methoxyphenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine. Yield 1.67 g (mp 112°-114° C.)

reactant | 4-methoxyphenol | 1,24 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | 7-(1-bromoethyl)-1,2,4-triazolo[1,5-a]pyrimidine | 2.27 g | BrC(C)C1=CC=NC=2N1N=CN2 | C7H7BrN4
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 35 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 85 ml | COCCOC | C4H10O2
product | 7-[1-(4-methoxyphenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine | COC1=CC=C(OC(C)C2=CC=NC=3N2N=CN3)C=C1 | C14H14N4O2
